US08865736B2
4-Chloro-N-hydroxy-benzamide
To a solution of 4-chlorobenzonitrile (10.0 g, 73.0 mmol) in EtOH (250 mL) was added hydroxylamine hydrochloride (5.03 g, 73.0 mmol) and NaOH (2.90 g, 73.0 mmol). The resulting reaction mixture was refluxed for 15 h. After the completion of the reaction (TLC monitoring), the mixture was concentrated, added EtOH and filtered. The filtrate was evaporated in vacuo and used as such for the next step (crude yield 12.0 g, 66%).

reactant | 4-chlorobenzonitrile | 73.0 mmol, 10.0 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | hydroxylamine hydrochloride | 73.0 mmol, 5.03 g | Cl.NO
reactant | NaOH | 73.0 mmol, 2.90 g | [OH-].[Na+]
solvent | EtOH | 250 mL | CCO | C2H6O
product | 4-Chloro-N-hydroxy-benzamide | ClC1=CC=C(C(=O)NO)C=C1 | C7H6ClNO2
